### PR TITLE
MAlg and PosFib implementation

### PR DESCRIPTION
**Pull request by RadoT29**
This PR is created just for visibility, it is not yet complete.

This PR contains the following definitions:

(a) Category of Monotone F-algebras
(b) Category of fibered fucntors fixed for the domain fibration.

They are part of https://doi.org/10.1016/j.entcs.2020.09.002 and will be used to prove an isomorphism between the two. Before the PR is finished, definitions related to monadic liftings and their relation to weakest preconditions will be implemented.

### CODE REVIEW

File: UniMath/CategoryTheory/Categories/MAlg.v [hunk 1]
```diff
@@ -0,0 +1,105 @@
...
+Defined. 
+
+Definition malg_precat : precategory.
+Proof.
+  use make_precategory.
+  - exact malg_precategory_data.
+  - exact is_precategory_malg.
+Defined.
+
+Definition malg_cat : category.
```
Comment (KobeWullaert) [inline UniMath/CategoryTheory/Categories/MAlg.v]: To define/construct this category, you have that your objects are functors with structure and your morphisms are natural transformations with structure/properties.
In particular, you've used the composition of natural transformations, the identity natural transformations, etc.
In essence, you've used here that functors and natural transformations form a category (a functor category). 
Functor categories are defined in "CategoryTheory/FunctorCategory.v"
If you want to be more optimal, you can define malg_cat as a displayed category over functor_category(C,C). Or more precisely, you can define malg_cat as the total category of that displayed category.
(An analogous trick has been used CategoryTheory/Monoidal/FunctorCategories.v)

File: UniMath/CategoryTheory/Categories/PosFib.v [hunk 2]
```diff
@@ -0,0 +1,226 @@
...
+Defined.
+
+Definition pos_fib_precat : precategory.
+Proof.
+  use make_precategory.
+  - exact pos_fib_precat_data.
+  - exact is_precategory_pos_fib.
+Defined.
+
+Definition pos_fib_cat : category.
```
Comment (KobeWullaert) [inline UniMath/CategoryTheory/Categories/PosFib.v]: The comment made for malg (regarding displayed categories over functor categories) applies here as well.

File: UniMath/CategoryTheory/Categories/PosFib.v [hunk 3]
```diff
@@ -0,0 +1,226 @@
...
+  - exact pos_fib_precat_ob_mor.
+  - exact pos_fib_id.
+  - intros a b c f g. exact (pos_fib_comp f g).
+Defined.
+
+Proposition isaprop_disp_nat_trans (a b : pos_fib_object) (α : nat_trans (pr1 a) (pr1 b)) (α_dot : disp_nat_trans α (pr12 a) (pr12 b)) : isaprop (∑ _ : disp_nat_trans α (pr12 a) (pr12 b),
+∏ x : C, C ⟦ x, Ω ⟧ → α x = α x).
+Proof.
+apply isapropdirprod.
+    + unfold disp_nat_trans. unfold disp_nat_trans_data. apply  isofhleveltotal2.
```
Comment (KobeWullaert) [inline UniMath/CategoryTheory/Categories/PosFib.v]: Here, you've started subgoals with a +, as you've done everywhere else, try to start with a -.
The general hierarchy is: -,+,*,--,++, etc.

**Comment by KobeWullaert** [comment]
Some smaller general comments:
- Try to be consistent with spacing (indenting).
- You've often one-lined different commands, try to use one line per command.
- Do you know the difference between "Qed" and "Defined" when closing a proof? (We could discuss this verbally.)

File: UniMath/CategoryTheory/Categories/MAlg.v (hunk 1 above)
Comment (RadoT29) [reply UniMath/CategoryTheory/Categories/MAlg.v]: Thanks for the tips once again, I applied the changes, it really made the code more concise and easy to follow.

File: UniMath/CategoryTheory/Categories/PosFib.v (hunk 3 above)
Comment (RadoT29) [reply UniMath/CategoryTheory/Categories/PosFib.v]: Fixed it!

File: UniMath/CategoryTheory/DisplayedCats/MonadLifting.v [hunk 4]
```diff
@@ -0,0 +1,91 @@
+Require Import UniMath.Foundations.All.
+Require Import UniMath.CategoryTheory.All.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/DisplayedCats/MonadLifting.v]: This import needs to be removed?
```suggestion
```
